US05698490
Preparation of Dodecylbenzenesulfonate od C.I. Basic Yellow 14
In the same manner as in Example 1, 1 g of C.I. Basic Red 14 (commercial name: Aizen Cathilon Red 4GH, made by Hodogaya Chem. Ind., Col, Ltd.) and 1 g of sodium dodecylbenzenesulfonate were reacted to obtain about 1.6 g of a dark reddish purple tar-like captioned hydrophobic cationic dye. The hydrophobic cationic dye was placed in a water-toluene phase and shaken, whereupon the dye mostly remained in the toluene phase. This reveals that the substitution with the organic anion contributes to drastically improved miscibility with the organic solvent.

reactant | C.I. Basic Red 14 | 1 g | CC1(C2=CC=CC=C2[N+](=C1/C=C/C3=CC=C(C=C3)N(C)CCC#N)C)C.[Cl-]
reactant | sodium dodecylbenzenesulfonate | 1 g | C(CCCCCCCCCCC)OS(=O)(=O)C1=CC=CC=C1.[Na]
reactant | water toluene | O.C1(=CC=CC=C1)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Dodecylbenzenesulfonate | C(CCCCCCCCCCC)OS(=O)(=O)C1=CC=CC=C1 | C18H30O3S
